Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Confusion - transfer from ___ with cerebellar infarct
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old right-handed woman with a history of 
Afib on Coumadin, anxiety and depression who presents after 
being found lethargic in her room this morning.  According to 
her daughter, she spoke to her mother last night around 7:30pm, 
at which point she had no complaints, and sounded to be at her
baseline.  The patient reports that she remembers getting ready 
for, and going to bed, however, is not quite sure what happened 
after that.  While she normally is very prompt about going to 
breakfast, this morning she was not seen at breakfast, so her 
facility sent someone to check on her around 9am.  They found 
her still in bed, slightly confused.  She was taken to ___ where 
she was found to have a R cerebellar and L occipital infarct, in 
the context of an INR of 1.3.  She underwent an MRI which showed 
a small area of hemorrhagic conversion of the cerebellar 
infarct, at which point she was transferred to ___.
 
On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, lightheadedness, vertigo, tinnitus or hearing 
difficulty.  No bowel or bladder incontinence or retention. 
 
On general review of systems, her daughter notes a recent 
febrile illness, thoguht to be either pneumonia or a UTI, for 
which she received antibiotics 6 weeks ago. No night sweats or 
recent weight loss or gain. Denies cough, shortness of breath.  
Denies chest pain or tightness, palpitations.  Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain.  No recent 
change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or 
myalgias. Denies rash.
 
Past Medical History:
- Afib, on Coumadin (though currently subtherapeutic)
- Anxiety
- Depression
- Arthritis
- s/p bilateral glaucoma surgery with residual right eye ptosis
- episodes of AMS possibly representing seizure d/o for which 
she
is on carbamazepine

 
Social History:
___
Family History:
Mother died at ___ of a stroke, father died in his ___ of EtOH 
abuse.

 
Physical Exam:
Physical Exam: 
Vitals: P: 82 R: 16  BP: 185/84 SaO2: 97% on 2L NC
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Central congestion 
Cardiac: ___ systolic murmur
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally. 
Skin: no rashes or lesions noted. 
 
Neurologic: 
Mental Status: Alert, oriented x 3.  Able to relate history 
without difficulty.  Inattentive, unable to name ___ backwards - 
skips ___, then stops at ___.  Language is fluent with 
intact repetition and comprehension.  Speech was slightly 
slowed, with mild dysarthria. There were no paraphasic errors.  
Pt. was able to name both high and low frequency objects.  Able 
to read
without difficulty.   Able to follow both midline and 
appendicular commands. Pt. was able to register 3 objects and 
recall ___ at 5 minutes.  The pt. had good knowledge of current 
events.  There was no evidence of apraxia or neglect. 
  
Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation.
III, IV, VI: EOMI without nystagmus.  Overshoots when saccading 
from either side to midline.  Right eye ptosis (baseline since 
surgery) 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline, but has clumsiness with 
side-to-side movements.
 
Motor: Normal bulk, tone throughout. Slight right pronator drift 
with rebound. No adventitious movements, such as tremor, noted. 
No asterixis noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5 
 
Sensory: No deficits to light touch, pinprick, cold sensation 
throughout.  Decreased vibration and proprioception distally in 
bilateral lower extremities. 
 
DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1 
Plantar response was flexor bilaterally. 
 
Coordination: Significant dysmetria on R side with FNF, 
intention tremor on L hand.
 
Gait: Deferred given foley.
 
Pertinent Results:
___ 06:00AM BLOOD WBC-11.9* RBC-3.96* Hgb-12.5 Hct-36.3 
MCV-92 MCH-31.6 MCHC-34.5 RDW-13.5 Plt ___
___ 05:45PM BLOOD ___ PTT-24.4 ___
___ 06:00AM BLOOD Glucose-118* UreaN-19 Creat-0.7 Na-136 
K-3.6 Cl-98 HCO3-27 AnGap-15
___ 09:08AM BLOOD CK-MB-6 cTropnT-<0.01
___ 10:40AM BLOOD CK-MB-5 cTropnT-<0.01
___ 09:08AM BLOOD %HbA1c-5.8 eAG-120
___ 09:08AM BLOOD Triglyc-107 HDL-62 CHOL/HD-3.2 
LDLcalc-116

CXR: Diffuse interstitial pulmonary edema with newly developed 
bilateral pleural effusions. The fluid balance has worsened in 
the interval since the study acquired earlier same day. 

CT HEAD:  Similar right cerebellar infarction with hemorrhagic 
conversion and mass effect on the fourth ventricle. Similar left 
occipital infarction. 

TTE: No cardiac source of embolism seen. Normal global and 
regional biventricular systolic function. Moderate tricuspid 
regurgitation. Biatrial dilatation. Bubble study not performed 
due to patient's advanced age (even if PFO/ASD found, source of 
embolism is more likely to be atrial fibrillation).  

CT head (___): Essentially unchanged evolving right cerebellar 
and left occipital infarcts with hemorrhagic transformation. 

 
Brief Hospital Course:
The pt is an ___ year-old right-handed woman with a history of 
HTN, Afib and mitral regurgitation presenting after being found 
lethargic and slightly confused

Neuro: On imaging at OSH, she was found to have a right 
cerebellar and left occipital infarct. Her exam is notable for 
dysarthria as well as right sided dysmetria and overshoot. She 
has atrial fibrillation, for which she is on Coumadin, but INR 
was subtherapeutic, making atrial fibrillation the most likely 
etiology of her current infarct.  Given the small amount of 
hemorrhagic conversion, the Coumadin was initially held, but has 
since been restarted; however, there was no briding with heparin 
gtt. Regarding risk factors, she had HbA1C, which was normal at 
5.8 and Lipid Panel, which showed LDL 116. TTE was performed and 
did now show a cardiac source of embolism and there was normal 
systolic function.  A repeat CT head was performed on ___, 
which showed no progression in terms of edema or hemorrhagic 
conversion. 

___: Was having tachypnea on her first night of admission, 
likely due to not receiving her lasix dosing earlier in the day. 
Her CXR showed diffuse interstitial pulmonary edema with newly 
developed bilateral pleural effusions. She was given lasix with 
good response in regards to her respiratory rate. Her CXR was 
unchanged on two repeat studies. She did become hypotensive with 
the lasix, so she received IVF and the dosing of the lasix as 
well as some of her anti-HTN were reduced. After these changes 
were made, she remained hemodynamically stable. After being 
hemodynamically stable for 48 hours, her BP meds were adjusted 
to start her back slowly on her home meds. We do not wish to 
return to all her BP meds at discharge to prevent further 
hypotensive episodes; however, if she remains with elevated BPs, 
they can be restarted while at rehab. Her Imdur and Norvasc 
continue to be held and her Lisinopril and Clonodine not at her 
full home dose. 

Psych: she was initially very agitated and was sundowning; 
Seroquel prn was used with good effect. However, she has not 
needed this since ___. We will keep it on her discharge 
medication list in case she begins to sundown again initially in 
a new facility. 

 
Medications on Admission:
- Celexa 10mg daily
- Lisinopril 40mg daily
- Metoprolol 50mg bid
- Norvasc 10mg daily
- Digoxin 0.125mg
- Clonidine 0.3mg
- Indur 30mg daily
- Coumadin 5mg daily
- Lasix 40mg daily
- Carbamazepine 100mg bid
- Fosamax 70mg ___
- Tums bid
- MVI
- Vitamin D

 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
2. digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. carbamazepine 200 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day).  
4. alendronate 70 mg Tablet Sig: One (1) Tablet PO ___ (every 
___.  
5. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
7. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
9. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. quetiapine 25 mg Tablet Sig: Two (2) Tablet PO Q12HRS PRN () 
as needed for agitation.  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for hypertension.  
14. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO BID (2 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
R cerebellar stroke with hemorrhagic transformation and L PCA 
infarct
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Neuro defecits: mildly dysarthric speech, right eye ptosis (old, 
not from new strokes), slight right hemianopia and right sided 
ataxia. 

 
Discharge Instructions:
You came to the hospital after being found lethargic and 
slightly confused in your room. Imaging of your head showed an 
acute stroke in the left occipital lobe and in the right 
cerebellum. The stroke in the cerebellium is resulting in your 
difficulty with coordination with the right side of your body. 
The strokes are likely from clots from your heart and due to 
your Coumadin level being too low. The Coumadin was initially 
held because you had some bleeding into one of the new strokes, 
but it was later determined to be safe to restart this to reduce 
future stroke risk, so it has been restarted. You have remained 
stable since the Coumadin was restarted. 
 
Followup Instructions:
___